* source PWM_TO_ANALOG
V_V1         N00128 0  
+PULSE 1 0 1 1E-9 1E-9 1 10
R_R1         N00140 N00128  1k TC=0,0 
C_C1         0 N00140  0.636  TC=0,0 
